US08580949B2
Tetrafluoroboric acid (250 ml, 2.00 mol) was added to cool (0° C.) pyridine (157.7 ml, 1.95 mol) within 25 mins. resulting in a colorless precipitate. After the acid was completely added, the mixture was further stirred for 30 mins. and held at the same temperature. Thereafter, the reaction mixture was filtered. The residue was washed twice with cold ethanol and dried for 12 hrs at high vacuum to yield 201.9 g (60%) of pyridiniumtetrafluoroborate in the form of colorless crystals.

reactant | Tetrafluoroboric acid | 2.00 mol, 250 ml | F[B-](F)(F)F.[H+]
reactant | pyridine | 1.95 mol, 157.7 ml | N1=CC=CC=C1 | C5H5N
product | pyridiniumtetrafluoroborate | 201.9 g, 60% | F[B-](F)(F)F.[NH+]1=CC=CC=C1 | InChI=1S/C5H5N.BF4/c1-2-4-6-5-3-1;2-1(3,4)5/h1-5H;/q;-1/p+1
